US07091222B2
2-Methyl-4-[2-methyl-1-(2,2,2-trifluoro-ethyl)-1H-imidazol-4-ylethynyl]-pyridine
The title compound, MS: m/e=280.1 (M+H+), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2,2,2-trifluoroethyl mesylate.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 2,2,2-trifluoroethyl mesylate | S(C)(=O)(=O)OCC(F)(F)F | C3H5F3O3S
product | 2-Methyl-4-[2-methyl-1-(2,2,2-trifluoro-ethyl)-1H-imidazol-4-ylethynyl]-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(N(C1)CC(F)(F)F)C | C14H12F3N3
